US09290451B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid ((−)-methylcarbamoyl-phenyl-methyl)-amide
The title compound was synthesized in analogy to Example 1, using 5-cyclopropyl-6-cyclopropylmethyloxy-pyridine-2-carboxylic acid (Example 42 a) and (αR)-α-amino-N-methyl-benzeneacetamide hydrochloride (1:1) (CAN 97549-10-5) as starting materials. Racemization occurred during the synthesis and the product was isolated by chiral chromatography on Chiralpak AD using heptane/20% ethanol as eluent. The (−)-enantiomer was isolated. LC-MS (UV peak area/ESI) 100%, 380.1968 (M+H)+, αD20 (MeOH)=−6.0°.

reactant | 5-cyclopropyl-6-cyclopropylmethyloxy-pyridine-2-carboxylic acid | C1(CC1)C=1C=CC(=NC1OCC1CC1)C(=O)O | C13H15NO3
reactant | (αR)-α-amino-N-methyl-benzeneacetamide hydrochloride | Cl.N[C@@H](C(=O)NC)C1=CC=CC=C1
reactant | MeOH | CO | CH4O
solvent | heptane | CCCCCCC | C7H16
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid ((−)-methylcarbamoyl-phenyl-methyl)-amide | CNC(=O)C(C1=CC=CC=C1)NC(=O)C1=NC(=C(C=C1)C1CC1)OCC1CC1 | C22H25N3O3
